US08067445B2
Step 1: {2′-[3-(3,4-Dichloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
(2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.170 g, 0.42 mmol) and triethylamine (0.12 mL, 0.86 mmol) were combined in CH2Cl2 (2 mL). 3,4-Dichlorobenzyl isocyanate (0.08 mL, 0.52 mmol) was added, and the reaction was stirred at room temperature for 15 minutes. After concentrating, the crude material was purified by silica gel chromatography (20-50% EtOAc in hexanes) to give the title compound.

reactant | (2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.42 mmol, 0.170 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-Dichlorobenzyl isocyanate | 0.52 mmol, 0.08 mL | ClC=1C=C(CN=C=O)C=CC1Cl | C8H5Cl2NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | {2′-[3-(3,4-Dichloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC(=C(C=C1)Cl)Cl)CC)=O | C29H29Cl2F3N2O4
